US04677098
A suspension of 40 g of 4,5-dihydro-5-methoxycarbonyl-3-isoxazolepropanoic acid methyl ester and 2.0 g of PtO2 in 400 ml of methanol is placed under a hydrogen atmosphere with agitation. After H2 absorption is complete, the solution is filtered and the solvent removed under reduced pressure to give an oil. The oil is triturated with anhydrous diethyl ether to yield 5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid methyl ester as a white solid with mp 87°-90° C. NMR (CDCl3) and 6.94 (s, 1H), 4.38 (m, 1H), 3.96 (d, 1H), 3.73 (m, 1H), 3.70 (s, 3H), 2.44-1.81 (m, 6H). Ir(KBr) 3330, 3200, 2980, 1734, 1696, 1436, 1416, 1400, 1382, 1362, 1313, 1297, 1246, 1212.

reactant | 4,5-dihydro-5-methoxycarbonyl-3-isoxazolepropanoic acid methyl ester | 40 g | COC(CCC1=NOC(C1)C(=O)OC)=O | C9H13NO5
solvent | methanol | 400 ml | CO | CH4O
catalyst | PtO2 | 2.0 g | O=[Pt]=O
product | 5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid methyl ester | COC(C(CC1NC(CC1)=O)O)=O | C8H13NO4
